US07098231B2
Methyl 1-cyclopentyl-3-methyl-2-trimethylsilylindole-5-carboxylate
A mixture of methyl 4-(N-cyclopentylamino)-3-iodobenzoate from above (22.42 g, 65 mmol), palladium acetate (738 mg, 3.28 mmol), lithium chloride (2.757 g, 65 mmol), potassium acetate (12.757 g, 92.30 mmol), and 1-trimethylsilyl-1-propyne (28.70 mL, 192.56 mmol) in 390 mL of DMF was heated at 100° C. for 6 hours. The mixture was added onto 500 mL of saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The ethyl acetate fraction was dried, evaporated and semi-purified by flash chromatography using silica gel and 0.1% ethyl acetate in hexane. Adding hexane to the semi-purified compound gave 16 g of white crystals (75%).

reactant | methyl 4-(N-cyclopentylamino)-3-iodobenzoate | C1(CCCC1)NC1=C(C=C(C(=O)OC)C=C1)I | C13H16INO2
reactant | lithium chloride | 65 mmol, 2.757 g | [Cl-].[Li+]
reactant | potassium acetate | 92.30 mmol, 12.757 g | C(C)(=O)[O-].[K+]
reactant | 1-trimethylsilyl-1-propyne | 192.56 mmol, 28.70 mL | C[Si](C#CC)(C)C | C6H12Si
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | DMF | 390 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 3.28 mmol, 738 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 1-cyclopentyl-3-methyl-2-trimethylsilylindole-5-carboxylate | 16 g, 75% | C1(CCCC1)N1C(=C(C2=CC(=CC=C12)C(=O)OC)C)[Si](C)(C)C | C19H27NO2Si
